Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Morphine / 
Lisinopril
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a ___ y/o F with hx of COPD, hepatitis C, Htn, HL, 
PVD, GERD, fibromyalgia, hiatal hernia, and gastritis, who came 
to the ED this morning for three weeks of progressively 
worsening epigastric and RUQ pain, with single episode of emesis 
this morning. The pain is consistently worse when she eats. She 
has had abdominal pain most of her life but this is worse, and 
she is also starting to feel "kidney pain." She has had 
diarrhea, which is a chronic issue for her. She also had a fever 
to 102 degrees yesterday. She reports that she had an unusually 
aggressive day of drinking yesterday, drinking 18 beers and 8 
liquor drinks over the prior 24 hours; she typically drinks one 
six pack per day on the weekends.  
.  
In the ED, initial VS: 96.5, 112/72, 92, 20, 100%. Exam was 
notable for general discomfort and epigastric tenderness. Labs 
included elevated BUN/creat (___), alk phos 110, and lactate 
3.2. CT Abd/pelvis showed no acute processes, but had stable CBD 
and intrahepatic bile duct dilation. NG lavage was deferred 
given stable hct and possibility of varices (not reported on ___ EGD). The patient was given 2L of NS, ondansetron, 
pantoprazole, and hydromorphone 2 mg IV x2. When her pain did 
not improve with hydromorphone, she was admitted for pain 
control. VS prior to transfer were 97.2, 78, 144/68, 18, 98% on 
RA.  
.  
Currently, pt has ongoing pain and nausea, though improved from 
yesterday. Denies current fevers, chills, chest pain, 
palpitations.  
.  
REVIEW OF SYSTEMS: As per HPI. Also endorses chronic "foot 
infection" (toenail thickening), "warmness" with urination, 
chronic upper and lower extremity pain due to fibromyalgia. Also 
has baseline chest heaviness, from COPD. Denies headache, vision 
changes, sore throat, constipation, BRBPR, melena, hematochezia, 
hematuria.  

 
Past Medical History:
PMH:
COPD (never formally dx by spirometry, bullous emphysema on CT 
imaging ___
Hepatitis C (stage ___ fibrosis per liver bx ___
HTN (poorly controlled at b/l, non compliant with meds; P-MIBI 
negative in ___, stress-Echo ___ EF 60%, trivial MR, no 
inducible ischemia)
HLD
Peripheral neuropathy
PVD (L subclavian stenosis seen on CTA ___ and MRA ___
and RE arterial insufficiency; ABI showing minimal disease below 
the knee at the tibial level on ___
Depression, requiring hospitalization in past
h/o polysubstance abuse, including cocaine and iv drug use, and 
on-going alcohol and tobacco use
Hiatal hernia, s/p nissen fundoplication
GERD
esophageal stricture (Schatzkis ring)
Fe def anemia
Fibromyalgia
Cervical spondylosis
Stress incontinence
Osteoarthritis
 
Social History:
___
Family History:
Mother: CAD, deceased. 9 siblings, one deceased (cause unknown). 
Four children, all healthy. 
 
Physical Exam:
VS - Temp 97.9F, BP 151/77, HR 80, R 20, O2-sat 94% RA  
GENERAL - chronically ill appearing adult female in NAD, moving 
around in bed but not clearly uncomfortable  
HEENT - NC/AT, PERRLA, EOMI, no conjunctival icterus, injection, 
pallor, MMM, OP clear  
NECK - supple, no JVD  
LUNGS - CTAB except for occasional mild expiratory wheeze. good 
air movement, resp unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, +TTP ___ area, soft/ND, no masses or 
HSM, no rebound/guarding, ___ negative. No flank 
tenderness.  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, 
DPs); +onychomycosis  
SKIN - no rashes or lesions  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, gait 
assessment deferred  

 
Pertinent Results:
___ 07:00AM   GLUCOSE-117* UREA N-12 CREAT-0.9 SODIUM-136 
POTASSIUM-3.8 CHLORIDE-105 TOTAL CO2-23 ANION GAP-12
___ 07:00AM   CALCIUM-8.1* PHOSPHATE-2.3* MAGNESIUM-1.9
___ 07:00AM   WBC-8.4 RBC-3.53* HGB-11.4* HCT-33.5* MCV-95 
MCH-32.3* MCHC-34.1 RDW-13.4
___ 07:00AM   PLT COUNT-224
___ 07:00AM   ___ PTT-28.6 ___
___ 01:45AM URINE  BLOOD-LG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-0.2 PH-5.5 
LEUK-NEG
___ 11:00PM   LACTATE-3.2*
___ 10:55PM   AMMONIA-23
___ 10:03PM   ALT(SGPT)-29 AST(SGOT)-34 ALK PHOS-110* TOT 
BILI-0.3
___ 10:03PM   LIPASE-30
___ 10:03PM   ALBUMIN-4.9
.
___ CT abd/pelvis:
IMPRESSION: 
1. 3.3-cm right hemorrhagic adnexal cyst. This would be within 
normal 
physiological limits if this patient is pre- or ___. 
If the 
patient is post-menopausal, a pelvic US examination is 
recommended.  
2. Mild-to-moderate intrahepatic bile duct dilation and CBD 
dilation, 
unchanged since ___, compatible with cholecystectomy. 
3. No acute intra-abdominal or intrapelvic process detected. 
4. Soft and calcific atherosclerotic plaque causing mild 
proximal SMA 
stenosis.  

 
Brief Hospital Course:
This is a ___ year old female with multiple medical problems 
including hepatitis C infection with hepatic fibrosis, 
gastritis, and heavy EtOH use admitted for intractable abdominal 
pain with recent nausea, diarrhea, and fever after drinking 
heavily.  
.  
#.  Alcoholic gastritis: It is likely that her abdominal pain is 
secondary to alcoholic gastritis after reportedly drinking 18 
beers and 8 liquor drinks the day of admission.  Her LFTs and 
lipase were normal.  Final CT read showed no acute process, but 
did show 3.3-cm right hemorrhagic adnexal cyst which can be 
further evaluated as an outpatient, soft and calcific 
atherosclerotic plaque causing mild proximal SMA stenosis, as 
well as mild-to-moderate intrahepatic bile duct dilation and CBD 
dilation which is unchanged since ___.  She has known gastritis 
on a recent EGD, which was likely exacerbated by her EtOH intake 
and also has significant GERD requiring fundoplication in the 
past.  She also has known chronic liver disease and fibromyalgia 
with likely irritable bowel given her chronic diarrhea.  After 
initially getting IV Dialudid for her pain control in the 
emergency department, she was continued on her home PPI BID and 
Tylenol ___ q6 standing for pain control.  No narcotics were 
given while on the medical floor.  She was started on sucralfate 
and ondansetron ODT for her nausea.  Social work consult was 
obtained for EtOH abuse and the patient was not interested in 
abstaining from EtOH at this time.  She was given mutlivitamin, 
thiamine, and folate.  CIWA was also initiated, but the patient 
did not score and left the hospital in less than 48 hours.
.  
#. COPD:  She did not have any respiratory symptoms and was not 
hypoxic.  Her home regimen of Advair, tiotropium, and albuterol 
were continued.  
.  
#. Hepatitis C:  Genotype 1, followed by the liver clinic.  She 
remains untreated given her history of depression and 
unwillingness to undergo regular psychiatric care.  Her LFTs 
remained stable as well as her biliary findings found on CT 
scan.  
.  
# HTN:  Continued her home regimen of valsartan and nifedipine.
.  
#. CODE STATUS:  Confirmed Full Code
.  
#. CONTACT: fiance (___) or ___ (relative)  

 
Medications on Admission:
-albuterol  
-fexofenadine  
-advair  
-folic acid  
-nifedipine  
-nitroglycerin  
-pantoprazole  
-tiotropium  
-valsartan  
-aspirin  
-docusate  
-ferrous sulfate  
-MVI  
-senna  
-thiamine  

 
Discharge Medications:
1. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q6H (every 6 hours) as needed for 
dyspnea, wheeze.  
2. fexofenadine 180 mg Tablet Sig: One (1) Tablet PO once a day. 
 
3. fluticasone-salmeterol 500-50 mcg/dose Disk with Device Sig: 
One (1) inhalation Inhalation BID (2 times a day).  
4. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. nifedipine 30 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO DAILY (Daily).  
6. nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain.  

7. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
8. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) inhlalation Inhalation DAILY (Daily).  
9. valsartan 320 mg Tablet Sig: One (1) Tablet PO once a day.  
10. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
11. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
12. ferrous sulfate 300  mg (60 mg iron) Tablet Sig: One (1) 
Tablet PO TID (3 times a day).  
13. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
14. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
15. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
16. acetaminophen 500 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours): do not take more than 2 grams per day.  
17. sucralfate 1 gram Tablet Sig: One (1) Tablet PO QID (4 times 
a day).
Disp:*120 Tablet(s)* Refills:*0*
18. ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed for nausea for 4 
days.
Disp:*12 Tablet, Rapid Dissolve(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcoholic gastritis
.
Secondary Diagnoses:
-COPD 
-Hepatitis C  
-HTN  
-GERD  
-Fibromyalgia  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ for 
further evaluation of abdominal pain and vomiting.  Your 
worsened abdominal pain and vomiting was likely due to the large 
amount of alcohol you took in prior to admission.  Alcohol is 
known to be a stomach irritant and cause gastritis.  Given your 
long history of stomach problems and your hepatitis C, it would 
be best if you stopped drinking alcohol altogether.
.
The following changes were made to your home medication regimen:
- Please START sucralfate 1 gram four times daily to help with 
your stomach inflammation 
- Please START ondansetron three times daily as needed for 
nausea
 
 
Followup Instructions:
___